US08106077B2
4′-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2′-methyl-biphenyl-4-carboxylic acid
A solution of 4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2′-methyl-biphenyl-4-carboxylic acid methyl ester (4.55 g, 1 equiv) and 1N NaOH (44.6 mL, 5 equiv) in MeOH (200 mL) is heated to 75° C. for 1 h. The reaction mixture is cooled to room temperature and is concentrated under reduced pressure. The residue is dissolved in water (200 mL) and the solution is acidified with 5N HCl. The resulting precipitate is filtered and dried under reduced pressure to give the title compound (4.21 g, 95%). ES/MS m/e (35Cl/37Cl) 496.3/498 (M+1).

reactant | 4′-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2′-methyl-biphenyl-4-carboxylic acid methyl ester | 4.55 g, 1 equiv | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C | C27H25Cl2N3O3
reactant | NaOH | 1N, 44.6 mL, 5 equiv | [OH-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 4′-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2′-methyl-biphenyl-4-carboxylic acid | 4.21 g, 95% | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)O)C)C(C)C | C26H23Cl2N3O3
